US04888439
N-(11-ethoxycarbonyl-2,6,10-trimethyl-2,6,10-undecatrienoyl)piperidine
Starting materials: 11-ethoxycarbonyl-2,6,10-trimethyl-2,6,10-undecatrienoic acid and piperidine.

reactant | 11-ethoxycarbonyl-2,6,10-trimethyl-2,6,10-undecatrienoic acid | C(C)OC(=O)C=C(CCC=C(CCC=C(C(=O)O)C)C)C | C17H26O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(11-ethoxycarbonyl-2,6,10-trimethyl-2,6,10-undecatrienoyl)piperidine | C(C)OC(=O)C=C(CCC=C(CCC=C(C(=O)N1CCCCC1)C)C)C | C22H35NO3
